US06284755B1
Step D: Preparation of 7-(1-methyl-3-methoxyphenyl)-azepan-2-one
7-(3-Methoxyphenyl)-azepan-2-one, as described above in Step C, (0.13 g, 0.6 mmol) and NaH (60% dispersion in mineral oil) (0.03 g, 0.75 mmol) were dissolved in THF (5 mL) under Ar at ambient temperature. After 0.25 hours, iodomethane (0.064 mL, 1.0 mmol) was added and stirring was continued for 20 h. The reaction mixture was partitioned between EtOAc (100 mL)—H2O (100 mL), the organic layer separated, washed with H2O, dried (MgSO4), filtered and concentrated to give the title compound after SiO2 chromatography (CHCl3:MeOH, 100:1 to 50:1).

reactant | 7-(3-Methoxyphenyl)-azepan-2-one | COC=1C=C(C=CC1)C1CCCCC(N1)=O | C13H17NO2
reactant | NaH | 0.75 mmol, 0.03 g | [H-].[Na+]
reactant | iodomethane | 1.0 mmol, 0.064 mL | IC | CH3I
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 7-(1-methyl-3-methoxyphenyl)-azepan-2-one | CC1(CC(=CC=C1)OC)C1CCCCC(N1)=O | C14H21NO2
